US07939526B2
Sodium hydride (60% dispersion in oil, 25 mg, 0.62 mmol) followed by methyl vinyl sulfone (1.30 g, 12.4 mmol) were added to a stirred solution of 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanol (2.1 g, 6.2 mmol) in tetrahydrofuran (25 mL). The reaction mixture was heated at reflux for 2 hours and additional methyl vinyl sulfone (1 equivalent) and sodium hydride (60% dispersion in oil, spatula tip full) were added. The mixture was allowed to stir overnight at room temperature. Water (50 mL) was added and a precipitate formed that was removed by filtration. The filtrate was extracted with dichloromethane (2×50 mL). The organic layers were combined, washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford an oil that was purified by flash chromatography (silica gel, eluted with 5% methanol in dichloromethane) to provide 0.45 g of 2-(ethoxymethyl)-1-({1-[2-(methylsulfonyl)ethoxy]cyclohexyl}methyl)-1H-imidazo[4,5-c]quinoline as a colorless oil.

reactant | Sodium hydride | 0.62 mmol, 25 mg | [H-].[Na+]
reactant | methyl vinyl sulfone | 12.4 mmol, 1.30 g | C(=C)S(=O)(=O)C | C3H6O2S
reactant | 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclohexanol | 6.2 mmol, 2.1 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCCCC1)O | C20H25N3O2
reactant | methyl vinyl sulfone | 1 equivalent | C(=C)S(=O)(=O)C | C3H6O2S
reactant | Water | 50 mL | O | H2O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 2-(ethoxymethyl)-1-({1-[2-(methylsulfonyl)ethoxy]cyclohexyl}methyl)-1H-imidazo[4,5-c]quinoline | 0.45 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCCCC1)OCCS(=O)(=O)C | C23H31N3O4S
